US05474707
A Grignard reagent was prepared from 1-bromo-3,4-difluorobenzene and magnesium in THF, and a THF solution of bicyclohexane-4,4'-dione monoethyleneacetal was added thereto dropwise while cooling with ice. After allowing the mixture to react at room temperature for 1 hour, the reaction mixture was worked-up in a conventional manner to obtain crude crystals of 4-[4-hydroxy-4-(3,4-difluorophenyl)cyclohexyl]cyclohexanone ethyleneacetal. The crude crystals were dissolved in toluene, and a small amount of potassium bisulfate was added thereto, followed by refluxing for 10 hours while removing water. After cooling to room temperature, water was added to the reaction mixture, and the product was extracted with toluene. The solvent was removed by distillation to obtain white crystals of 4-[4-(3,4-difluorophenyl)-3-cyclohexenyl]cyclohexanone ethyleneacetal. Triethylamine and a catalytic amount of palladium-on-carbon were added to a toluene solution of the product, and the mixture was allowed to react in an autoclave at a hydrogen pressure of 5 kg/cm2 for 3 hours. The catalyst was removed by filtration, and the filtrate was concentrated. The resulting crude product were recrystallized from ethanol to obtain white crystals of 4-[trans-4-(3,4-difluorophenyl)cyclohexyl]cyclohexanone ethyleneacetal. Formic acid was added to a toluene solution of the product, followed by stirring at room temperature for 4 hours. Water was added thereto, and the organic layer was separated, washed with a sodium bicarbonate aqueous solution, and dried. The solvent was removed by distillation, and the residue was recrystallized from ethanol to obtain white crystals of 4-[trans-4-(3,4-difluorophenyl)cyclohexyl]cyclohexanone. The resulting product was deuterated in the same manner as in (1-a) to obtain 4-[trans-4-(3,4-difluorophenyl)cyclohexyl]cyclohexanone-2,2,6,6-d4.

reactant | 1-bromo-3,4-difluorobenzene | BrC1=CC(=C(C=C1)F)F | C6H3BrF2
reactant | magnesium | [Mg] | Mg
reactant | bicyclohexane-4,4'-dione monoethyleneacetal | C1COC2(CCC(CC2)C2CCC(CC2)=O)O1 | C14H22O3
solvent | THF | C1CCOC1 | C4H8O
product | 4-[4-hydroxy-4-(3,4-difluorophenyl)cyclohexyl]cyclohexanone ethyleneacetal | C1COC2(CCC(CC2)C2CCC(CC2)(C2=CC(=C(C=C2)F)F)O)O1 | C20H26F2O3
